US04965134
Synthesis of 2,2-bis (3-amino-4-hydroxyphenyl -1,1,1,3,3,3-hexafluoropropane
30 parts by weight 2,2-bis (4-hydroxy-3-nitrophenyl)-1,1,1,3,3,3-hexafluoropropane are suspended in a mixture of 240 parts by weight ethanol and 120 parts by weight water. 1.5 parts by weight Raney nickel and two times 18.5 parts by weight hydrazine hydrate are added to the suspension, and subsequently, the mixture is heated for the reflux. After the development of hydrogen has abated at the end of about 4 hours, suction is applied to remove the Raney nickel and the ethanol/water mixture is removed in a vacuum. The residue is taken up with about 400 parts by weight of diluted hydrochloric acid and optionally filtered off from insoluble components. After the addition of sodium acetate and sodium carbonate, the 2,2-bis (3-amino-4- hydroxy phenyl)-1,1,1,3,3,3-hexafluoropropane is precipitated; the yield is approximately 66%. Analysis (reported/found) revealed the following data: C 49.2%/49.0%; H 3.3%/3.4%; N 7.7%/7.5%; F 31.1%/31.0%; 1H-NMR in d6 -DMSO: δ (ppm)=9.2 (2H,s,OH), 6.6 (6H, m,aromatic), 4.6 (4 H, s, --NH2).

reactant | 2,2-bis (4-hydroxy-3-nitrophenyl)-1,1,1,3,3,3-hexafluoropropane | OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)[N+](=O)[O-])[N+](=O)[O-] | C15H8F6N2O6
reactant | ethanol | C(C)O | C2H6O
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | 3-amino-4-hydroxyphenyl -1,1,1,3,3,3-hexafluoropropane | NC=1C=C(C=CC1O)C(C(F)(F)F)C(F)(F)F | C9H7F6NO
